US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.34 g) and [(4-benzyloxyphenyl)methyl](4-isopropylphenyl)amine (0.66 g) as starting materials, N-[(4-benzyloxyphenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.52 g) was obtained. melting point: 120-121° C.

reactant | 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.34 g | C1(CCCC2=CC=CC=C12)C(=O)O | C11H12O2
reactant | [(4-benzyloxyphenyl)methyl](4-isopropylphenyl)amine | 0.66 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C | C23H25NO
product | N-[(4-benzyloxyphenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.52 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=CC=C12)C1=CC=C(C=C1)C(C)C | C34H35NO2
